US07144888B2
{4-[6-(4-Trifluoromethyl-phenyl)-pyrimidin-4-yloxy]-benzothiazol-2-yl}-carbamic acid methyl ester.
To a solution of 4-[6-(4-trifluoromethyl-phenyl)-pyrimidin-4-yloxy]-benzothiazol-2-ylamine, (Example 65) (100 mg, 0.26 mmol) in pyridine (2 mL) was added methyl chloroformate (28 mg, 0.29 mmol, Aldrich) at 0° C. The reaction mixture was stirred at room temperature for 2 h, diluted with EtOAc and washed with 1 N NaOH and water. The EtOAc layer was separated, dried over Na2SO4, filtered and evaporated in vacuum. Purification of the residue by silica gel chromatography with gradient: 40 to 80% EtOAc in hexanes gave the title compound as an off white solid. MS (ESI, pos. ion.) m/z: 447 (M+1).

reactant | 4-[6-(4-trifluoromethyl-phenyl)-pyrimidin-4-yloxy]-benzothiazol-2-ylamine | FC(C1=CC=C(C=C1)C1=CC(=NC=N1)OC1=CC=CC2=C1N=C(S2)N)(F)F | C18H11F3N4OS
reactant | methyl chloroformate | 0.29 mmol, 28 mg | ClC(=O)OC | C2H3ClO2
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | {4-[6-(4-Trifluoromethyl-phenyl)-pyrimidin-4-yloxy]-benzothiazol-2-yl}-carbamic acid methyl ester | COC(NC=1SC2=C(N1)C(=CC=C2)OC2=NC=NC(=C2)C2=CC=C(C=C2)C(F)(F)F)=O | C20H13F3N4O3S
